US06756380B1
To a solution of 0.3 g (0.58 mmol) 2-methanesulfonyl-5-phenyl-pyrimidine-4-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide in 10 ml dioxan 0.16 ml (1.45 mmol) 1-methyl-piperazine was added. The reaction mixture was stirred for 16 hrs. After evaporation of the solvent, the residue was distributed between 50 ml CH2Cl2 and 50 ml H2O. The aqueous layer was extracted with 50 ml CH2Cl2, the combined organic layers dried (MgSO4), filtered and evaporated. The residue was purified by chromatography (SiO2, CH2Cl2/MeOH/NH4OH 140:10:1) to give 0.15 g (48%) 2-(4-methyl-piperazin-1-yl)-5-phenyl-pyrimidine-4-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide as a off-white solid, m.p. 162.0-162.8°.

reactant | 2-methanesulfonyl-5-phenyl-pyrimidine-4-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide | 0.58 mmol, 0.3 g | FC(C=1C=C(CN(C(=O)C2=NC(=NC=C2C2=CC=CC=C2)S(=O)(=O)C)C)C=C(C1)C(F)(F)F)(F)F | C22H17F6N3O3S
reactant | dioxan | 1.45 mmol, 10 ml | O1CCOCC1 | C4H8O2
product | 2-(4-methyl-piperazin-1-yl)-5-phenyl-pyrimidine-4-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide | 0.15 g, 48% | FC(C=1C=C(CN(C(=O)C2=NC(=NC=C2C2=CC=CC=C2)N2CCN(CC2)C)C)C=C(C1)C(F)(F)F)(F)F | C26H25F6N5O
